US07320973B2
(R)-2-Fluoro-5,11-dihydro-5-[1-(4-pyrrolidinophenethyl)pyrrolidin-2-yl-methyl]dibenzo[b,e][1,4]oxazepine dihydrochloride
(R)-2-Fluoro-5,11-dihydro-5-[1-(4-pyrrolidinophenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine (12.04 g, 25.5 mmol) was dissolved in 2-propanol (250 ml). 4 M hydrogen chloride/2-propanol (17.0 ml) was added to the obtained solution and they were stirred at room temperature for 0.5 hour. The solvent was evaporated under reduced pressure, and 2-propanol (about 50 ml) was added to the residue. The solvent was evaporated under reduced pressure repeatedly 4 times to obtain the title compound in the form of a light red solid (14.89 g, 100%).

reactant | (R)-2-Fluoro-5,11-dihydro-5-[1-(4-pyrrolidinophenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine | 25.5 mmol, 12.04 g | FC1=CC2=C(N(C3=C(OC2)C=CC=C3)C[C@@H]3N(CCC3)CCC3=CC=C(C=C3)N3CCCC3)C=C1 | C30H34FN3O
reactant | hydrogen chloride 2-propanol | 4 M, 17.0 ml | Cl.CC(C)O
solvent | 2-propanol | 250 ml | CC(C)O | C3H8O
product | (R)-2-Fluoro-5,11-dihydro-5-[1-(4-pyrrolidinophenethyl)pyrrolidin-2-yl-methyl]dibenzo[b,e][1,4]oxazepine dihydrochloride | Cl.Cl.FC1=CC2=C(N(C3=C(OC2)C=CC=C3)C[C@@H]3N(CCC3)CCC3=CC=C(C=C3)N3CCCC3)C=C1 | InChI=1S/C30H34FN3O.2ClH/c31-25-11-14-28-24(20-25)22-35-30-8-2-1-7-29(30)34(28)21-27-6-5-18-33(27)19-15-23-9-12-26(13-10-23)32-16-3-4-17-32;;/h1-2,7-14,20,27H,3-6,15-19,21-22H2;2*1H/t27-;;/m1../s1
